US05866594
1) Synthesis of methyl 4,7-dimethylindoline-2-carboxylate (intermediate compound)
A flask dried with heating was charged with 1.6 g (7.9 mmol) of methyl 4,7-dimethylindole-2-carboxylate and 3.8 g (158 mmol) of chipped magnesium. After addition of 400 ml of anhydrous methanol, the reaction mixture was stirred vigorously for 30 minutes. The flask was placed in an ice bath to cool the reaction mixture to 0° C., and the reaction mixture was stirred overnight. The reaction mixture was diluted with 300 ml of water, filtered and extracted with 100 ml of methylene chloride three times. The methylene chloride layers were combined, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The solids thus obtained were purified by silica gel column chromatography to provide 1.28 g of light red crystals. Yield: 79%

reactant | methyl 4,7-dimethylindole-2-carboxylate | 7.9 mmol, 1.6 g | CC1=C2C=C(NC2=C(C=C1)C)C(=O)OC | C12H13NO2
reactant | magnesium | 158 mmol, 3.8 g | [Mg] | Mg
reactant | methanol | 400 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | methyl 4,7-dimethylindoline-2-carboxylate | 1.28 g, Yield: 79% | CC1=C2CC(NC2=C(C=C1)C)C(=O)OC | C12H15NO2
